Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
High calcium
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
 ___ male with a history of DM2, HTN, ___ stage 3, GERD, 
and chronic hepatitis B who presents at the suggestion of his 
PCP with hypercalcemia. The patient's primary language is 
___.

The patient had labs checked by his PCP for ___ which reveal 
hypercalcemia. He suggested the patient go to the emergency 
department where calcium was found to be 14.1. He denies any 
symptoms including constipation, changes in urinary habits, 
abdominal discomfort, or pain in his extremities. His family has 
not noticed any changes in cognition. He reports drinking a fair 
amount of milk and taking antacids frequently. He has no known 
history of malignancy.

In the ED 1 L of NS was started. He was hemodynamically stable.

 
Past Medical History:
DM2, HTN, ___ stage 3, GERD, and chronic hepatitis B    
 
Social History:
___
Family History:
No Family History of metabolic disorders  
 
Physical Exam:
GENERAL: Alert and in no apparent distress
EYES: Anicteric
ENT: Ears and nose without visible erythema, masses, or trauma.  

CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement 
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation
MSK: Neck supple, moves all extremities
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, speech fluent
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 10:09AM BLOOD Hgb: 10.0* 
___ 04:28AM BLOOD Hgb: 9.6* 
___ 10:09AM BLOOD Creat: 2.4* 
___ 04:28AM BLOOD Creat: 2.3* 
___ 09:00AM BLOOD Creat: 2.3* 
___ 10:09AM BLOOD Calcium: 14.1* 
___ 04:28AM BLOOD Calcium: 13.5* 
___ 09:00AM BLOOD Calcium: 12.4* 
___ 04:28AM BLOOD PTH: 18 
___ 10:09AM BLOOD TSH: 2.5 25VitD: 33 
___ 09:41AM BLOOD freeCa: 1.63* 
___ 04:51AM BLOOD freeCa: 1.73* 

XR: Suggestion of mediastinal lesion. No intraparenchymal 
process

___ 02:00AM BLOOD Hgb: 8.3* 
___ 02:00AM BLOOD Creat: 2.2* UreaN: 43* Calcium: 10.2 Mg: 
1.5* Phos: 2.7 
___ 04:28AM BLOOD PTH: 18 
___ 09:00AM BLOOD PSA: 0.3 

CT Chest: 
1. No findings to suggest the presence of a primary lung 
malignancy.  No
mediastinal mass or lymphadenopathy.
2. Mild emphysema with diffuse bronchial wall thickening 
consistent with
chronic bronchitis and stable compared to prior.
3. Mild ectasia of the ascending thoracic aorta.
4. Enlarged main pulmonary artery, a finding which can be seen 
in pulmonary
arterial hypertension.

CT Abd:
  
No evidence of malignancy within the abdomen or pelvis within 
the limitation 
of a non-enhanced study.  No suspicious osseous lesions. 

___ 05:44AM BLOOD WBC-5.2 RBC-2.77* Hgb-8.7* Hct-25.9* 
MCV-94 MCH-31.4 MCHC-33.6 RDW-12.3 RDWSD-41.4 Plt ___
___ 05:44AM BLOOD Glucose-99 UreaN-32* Creat-2.2* Na-138 
K-3.7 Cl-102
___ 05:44AM BLOOD Calcium-9.1 Mg-2.2
___ 06:02AM BLOOD freeCa-1.20
 
Brief Hospital Course:
# Hypercalcemia: Presented with severe (>14) hypercalcemia. PTH 
was low (<20). Malignancy is the first concern with hose lab 
findings. CT chest/abd/pelvis (without contrast) did not show 
clear signs of malignancy or lytic lesions, however. PSA was 
WNL. No total protein-albumin gap was present, though he does 
have concomitant anemia (iron studies consistent with anemia of 
chronic disease) and renal dysfunction. SPEP, free light chains, 
UPEP, PTHrP, and vitamin D 1,25-OH are pending. Fluids and 
calcitonin were given initially, and his calcium normalized. It 
then stayed normal after IVF were discontinued. Milk-alkali 
syndrome possible given the patients reported calcium carbonate 
ingestion, though often see alkalosis and hypophosphatemia with 
this as well. Bisphosphonates were not given renal function, 
though some studies have suggested it is safe to use. If 
malignancy is the underlying cause, zolendronic acid may be 
useful to prevent recurrence. The patient requested to leave the 
hospital and continue workup as an outpatient. As his calcium 
remained normal even off of fluids, this plan was discussed with 
his PCP. He will therefore follow up closely in clinic and see 
nephrology in the outpatient setting as well for his ___.

Mr. ___ was seen and examined on the day of discharge and is 
clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
was greater than 30 minutes.
 
Medications on Admission:
No medication changes other than avoiding calcium supplements
 
Discharge Medications:
Continue home medications other than calcium supplements
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypercalcemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ with high calcium levels in your 
blood. We gave you fluids through an IV to help bring this down. 
We looked for causes of this but so far do not have an exact 
answer. Taking too much calcium may have been the cause, but we 
would also like to rule out other causes. Your primary care 
doctor ___ continue to work with you on this.

Please do not take any medications with calcium (like tums) or 
calcium supplements
 
Followup Instructions:
___